US05162370
(1S,2S,3R,5S)-(E)-7-(4-Carboxybutylidene)-2-[4(RS)fluoro-3(RS)-hydroxy-(E)-1-octenyl]-3-tetrahydropyranyloxybicyclo[3.3.0]octane (13') (0.140 g) was subjected to Jones oxidation between -15 ° C. and -20 ° C. The mixture was stirred for 30 minutes, isopropyl alcohol was added to the mixture, and the resultant was treated by a usual work-up. The obtained crude product was purified on column chromatography (hexane/ethyl acetate=6/1-5/1) to give (1S,2S,3R,5S)-(E)-7-(4-carboxybutylidene)-2-[4(RS)-fluoro-3-oxo-(E)-1-octenyl]-3-tetrahydropyranyloxybicyclo[3.3.0]octane (14') as a colorless oily product. Yield: 0.106 g (76%)

reactant | (1S,2S,3R,5S)-(E)-7-(4-Carboxybutylidene)-2-[4(RS)fluoro-3(RS)-hydroxy-(E)-1-octenyl]-3-tetrahydropyranyloxybicyclo[3.3.0]octane | C(=O)(O)CCC\C=C\1/C[C@H]2C[C@H]([C@H]([C@H]2C1)\C=C\C(C(CCCC)F)O)OC1OCCCC1 | C26H41FO5
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | (1S,2S,3R,5S)-(E)-7-(4-carboxybutylidene)-2-[4(RS)-fluoro-3-oxo-(E)-1-octenyl]-3-tetrahydropyranyloxybicyclo[3.3.0]octane | C(=O)(O)CCC\C=C\1/C[C@H]2C[C@H]([C@H]([C@H]2C1)\C=C\C(C(CCCC)F)=O)OC1OCCCC1 | C26H39FO5
